** sch_path: /foss/designs/acoustic-ranger-dvl-processor/simulation/testbench_analog/OTA/OTA_freq-response.sch
**.subckt OTA_freq-response
V3 in+ 0 1.65
V1 vdd 0 3.3
V2 vss 0 0
V4 in- out ac 1
C1 out vss 1p
x3 vdd out in+ in- net1 vss two-stage_miller_OTA
x1 vdd net1 net2 vss vss vss beta_multiplier
**** begin user architecture code





.control
	.include ./OTA_freq-response.save
	*tran 1u 1m
	*plot v(net2) v(net4) v(net5) v(in-)
	*plot v(net2) v(net3)


	*show m.xm1.m0 m.xm2.m0

	op
	ac dec 20 1 1g

	*plot v(pbias) v(nbias)
	plot db(v(out)/v(in-)) (180/3.14159)*cph(v(out)/v(in-))
	*plot db(v(out)/v(in-))
	*plot (180/3.14159) * cph(v(out)/v(in-))
	remzerovec
	write OTA_freq-response.raw


.endc



.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice fs

**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/acoustic-ranger-dvl-processor/design/analog/OTA/two-stage_miller_OTA.sym # of pins=6
** sym_path: /foss/designs/acoustic-ranger-dvl-processor/design/analog/OTA/two-stage_miller_OTA.sym
** sch_path: /foss/designs/acoustic-ranger-dvl-processor/design/analog/OTA/two-stage_miller_OTA.sch
.subckt two-stage_miller_OTA vdd out in+ in- bias vss
*.ipin in+
*.ipin in-
*.opin out
*.iopin vdd
*.iopin vss
*.ipin bias
XM1 net2 in- net1 vdd pfet_03v3 L=1u W=6.2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XM2 net3 in+ net1 vdd pfet_03v3 L=1u W=6.2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XM14 net3 net2 vss vss nfet_03v3 L=3u W=7.7u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM15 net2 net2 vss vss nfet_03v3 L=3u W=7.7u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM3 out net3 vss vss nfet_03v3 L=3u W=7.7u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=12
C1 out net3 5p
XM4 net1 bias vdd vdd pfet_03v3 L=20u W=25.3u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM5 out bias vdd vdd pfet_03v3 L=20u W=25.3u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=6
.ends


* expanding   symbol:  /foss/designs/acoustic-ranger-dvl-processor/design/analog/beta multiplier/beta_multiplier.sym # of pins=6
** sym_path: /foss/designs/acoustic-ranger-dvl-processor/design/analog/beta multiplier/beta_multiplier.sym
** sch_path: /foss/designs/acoustic-ranger-dvl-processor/design/analog/beta multiplier/beta_multiplier.sch
.subckt beta_multiplier vdd pbias nbias status trigger vss
*.iopin vdd
*.iopin vss
*.opin pbias
*.opin nbias
*.opin status
*.ipin trigger
XM1 pbias nbias net1 net1 nfet_03v3 L=30u W=51.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=3
XM2 nbias nbias vss vss nfet_03v3 L=30u W=22.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=3
XM3 pbias pbias vdd vdd pfet_03v3 L=30u W=52.08u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=6
XM4 nbias pbias vdd vdd pfet_03v3 L=30u W=52.08u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=6
R1 net1 vss 10k
XM5 pbias trigger vss vss nfet_03v3 L=5u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM10 net2 nbias vss vss nfet_03v3 L=0.28u W=18u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
R3 vdd net2 10k
XM11 status net2 vss vss nfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM12 status net2 vdd vdd pfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
